data/rdb19/train.csv
rxn,smiles,ea
3310,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15](=[C:16]([H:26])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:8])([H:9])[H:27])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],34.99785442947177
409,[O:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10])[H:8]>>[H:8].[O:1]1[C:2]([H:9])([H:10])[C:3]1([C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11],60.75192510944908
1927,[C:11]([C:12]([C:13]([H:14])[H:15])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[C:13]([C:12]([C:11]([H:19])([H:20])[H:21])([C:16](=[O:17])[N:18]([H:23])[H:24])[H:22])([H:14])[H:15])([H:6])[H:7],14.367209171759896
3993,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])[H:22])([H:13])[H:14])([H:10])([H:11])[H:12].[H:23][C:26]([C:25]([C:24]([H:31])([H:32])[H:33])([H:34])[H:35])([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36],25.240938588860445
5046,[C:11]([C:12]([C:13]([H:14])[H:15])([O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[O:16][C:17](=[O:18])[C:19]([H:24])([H:25])[H:26])([H:20])([H:21])[H:22].[C:1]([O:2][C:3]([C:4]([H:9])([H:10])[H:23])[H:8])([H:5])([H:6])[H:7],36.546446108142845
2055,[C:11]([C:12]([C:13]([H:23])([H:24])[H:25])([C:14]([H:15])[H:16])[C:17](=[O:18])[O:19][H:26])([H:20])([H:21])[H:22].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2]([O:3][C:14]([C:12]([C:11]([H:20])([H:21])[H:22])([C:13]([H:23])([H:24])[H:25])[C:17](=[O:18])[O:19][H:26])([H:15])[H:16])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7],27.34992223099107
1516,[C:10]([C:11]([C:12]([H:13])[H:14])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[C:12]([C:11]([C:10]([H:19])([H:20])[H:21])([O:15][C:16](=[O:17])[C:18]([H:23])([H:24])[H:25])[H:22])([H:13])[H:14])[H:7])[H:6],10.689742884715088
1136,[C:14](=[C:15]([N:16][H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([H:5])[C:17](=[O:18])[H:23])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:17](=[O:18])[H:23])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][N:16]([C:15](=[C:14]([H:19])[H:20])[H:21])[H:22],26.84255833463976
313,[C:4]([O:5][C:6](=[O:7])[C:8](=[C:9]([H:14])[H:15])[C:10]([H:16])([H:17])[H:18])([H:11])([H:12])[H:13].[O:1]([O:2])[H:3]>>[C:4]([O:5][C:6](=[O:7])[C:8]=[C:9]([H:14])[H:15])([H:11])([H:12])[H:13].[O:1]([O:2][C:10]([H:16])([H:17])[H:18])[H:3],71.8533974828897
1837,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:18]([H:31])([H:32])[H:33].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:11])[H:12])([H:8])([H:9])[H:10],68.62435541523155
2667,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:23]([N:22]([C:21](=[C:20]([H:25])[H:26])[H:27])[H:28])([O:24])[H:29],45.81678388768341
680,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[O:25][H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[O:25][H:31])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],36.25935704295989
